US03933804
EXAMPLE 88: 5-[(4-Bromo-3-methyl-2-butenyloxy)-methyl]-1,3-benzodioxol
8.7 g (0.05 mol) of sodium salt of the 3,4-methylendioxybenzylalcohol are added at 0° during the course of 15 minutes and while stirring to 12.5 g (0.055 mol) of 1,4-dibromo-2-methyl-2-butene which is dissolved in 100 cc of 1,2-dimethoxyethane. The mixture is stirred at 20°-25° for 16 hours and at 50° for 15 minutes. The solvent is then distilled off at reduced pressure and 100 cc amounts of water and ether are added to the residue. The aqueous phase is separated in a separatory funnel, the ether phase is extracted with saturated salt solution, is dried with sodium sulphate and evaporated. The residue is chromatographed on silica gel with hexane/ethyl acetate 9 : 1, whereby the 5-[(4-bromo-3-methyl-2-butenyloxy)-methyl]-1,3-benzodioxol is obtained as uniform colourless oil.

reactant | sodium | 0.05 mol, 8.7 g | [Na] | Na
reactant | 3,4-methylendioxybenzylalcohol | C1OC=2C=C(CO)C=CC2O1 | C8H8O3
reactant | 1,4-dibromo-2-methyl-2-butene | 0.055 mol, 12.5 g | BrCC(=CCBr)C | C5H8Br2
solvent | 1,2-dimethoxyethane | 100 cc | COCCOC | C4H10O2
product | 5-[(4-Bromo-3-methyl-2-butenyloxy)-methyl]-1,3-benzodioxol | BrCC(=CCOCC1=CC2=C(OCO2)C=C1)C | C13H15BrO3
